US06011028
Example 319 A) To cyclopropyl carboxaldehyde in MeOH is added nitromethane and triethylamine. After stirring, the solvent is removed in vacuo and the residue is dissolved in CH2Cl2. The 2-nitro-1-cyclopropylethanol is isolated from the methylene chloride solution and added to a mixture of sodium acetate and acetic anhydride under N2After stirring, the mixture is diluted with water and extracted with EtOAc. The combined extracts are washed with brine, dried over MgSO4 and the solvent is removed in vacuo. The 2-nitroethenylcyclopropane is used without further purification.

reactant | cyclopropyl carboxaldehyde | C1CC1C(C#N)O | C5H7NO
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | MeOH | CO | CH4O
product | 2-nitro-1-cyclopropylethanol | [N+](=O)([O-])CC(O)C1CC1 | C5H9NO3
